US06756393B2
A mixture of N-((4-Methylphenyl)methyl)-N-(1-(phenylmethyl)piperidin-4-yl)-(4-methoxyphenylmethyl)acetamide (20 mg, 0.045 mmol) and Lawesson's reagent (25 mg, 0.062 mmol), was taken in a glass vial and mixed thoroughly with magnetic stirbars. The glass vial was then irradiated in a microwave oven (900 W, Whirlpool M401)for 8 min. Upon completion of the reaction, the yellow-colored material was transferred to an ion-exchange column with the aid of methanol (2 ml). The ion-exchange column was subsequently washed with CH2Cl2 (2ml) and methanol (2 ml) and the product was thereafter eluted from the ion-exchange column (10% NH3 in methanol, 2 ml)to give N-((4-Methylphenyl)methyl)-N-(1-(phenylmethyl)piperidin-4-yl)-4-methoxyphenylmethyl thioacetamide (20 mg, 97%) as a white solid; LC-MS: (N+H)+ 459, tr 9.60 min; TLC (CH2Cl2/methanol 20: 1)Rf=0.38.

reactant | N-((4-Methylphenyl)methyl)-N-(1-(phenylmethyl)piperidin-4-yl)-(4-methoxyphenylmethyl)acetamide | 0.045 mmol, 20 mg | CC1=CC=C(C=C1)CN(C(CCC1=CC=C(C=C1)OC)=O)C1CCN(CC1)CC1=CC=CC=C1 | C30H36N2O2
reactant | Lawesson's reagent | 0.062 mmol, 25 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | methanol | 2 ml | CO | CH4O
product | N-((4-Methylphenyl)methyl)-N-(1-(phenylmethyl)piperidin-4-yl)-4-methoxyphenylmethyl thioacetamide | 20 mg, 97% | CC1=CC=C(C=C1)CN(C(CCC1=CC=C(C=C1)OC)=S)C1CCN(CC1)CC1=CC=CC=C1 | C30H36N2OS
